US09056873B2
Step E: tert-Butyl 4-chloro-6,7-difluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
To a 50 mL 3-neck round bottom flask with magnetic stirring was added 4-chloro-6,7-difluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (3.25 g, 15.89 mmol) and DCM (23 mL). The suspension was cooled to 5° C. and Et3N (4.43 mL, 31.8 mmol) was added followed by DMAP (0.019 g, 0.159 mmol). A solution of di-tert-butyl dicarbonate (4.16 g, 19.07 mmol) in DCM (6.5 mL) was added dropwise over a period of 2 minutes during which the reaction mixture turned dark red. The reaction mixture was stirred and allowed to warm slowly to 14° C. over a 4 hour period after which HPLC analysis showed 11% starting material remained. Additional DMAP (0.019 g, 0.159 mmol) was added to provide complete consumption of the starting material within 1 hour. The reaction suspension was then added to IPA (65 mL). The red suspension was cooled to 5° C. for 5 minutes before the solids were filtered, washed with IPA (10 mL), and dried in a vacuum oven at 45° C. overnight to yield the title compound as a reddish solid (3.87 g, 80%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.53 (s, 9H), 4.94 (s, 2H).

reactant | 4-chloro-6,7-difluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 15.89 mmol, 3.25 g | ClC1=NC(=C(C2=C1C(NC2)=O)F)F | C7H3ClF2N2O
reactant | Et3N | 31.8 mmol, 4.43 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 19.07 mmol, 4.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.159 mmol, 0.019 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 6.5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.159 mmol, 0.019 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 23 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-chloro-6,7-difluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 3.87 g, 80% | ClC1=NC(=C(C2=C1C(N(C2)C(=O)OC(C)(C)C)=O)F)F | C12H11ClF2N2O3
